US06589970B2
Bromine (210 μL, 4.02 mmol) in 50 mL of glacial HOAc was added under nitrogen dropwise over 2 h to a solution of 2-butyl-benzofuran-3-carboxylic acid (6-hydroxy-naphthalen-2-ylmethyl)-amide (1.5 g, 4.02 mmol), prepared in step 2 of Example 8, in 300 mL of glacial HOAc at room temperature. After the addition the reaction was stirred at room temperature for 20 h (overnight). The solid formed was collected by filtration and dried under reduced pressure to give 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-amide (1.41 g, 81%) as a light gray solid, mp 192-193° C.

reactant | Bromine | 4.02 mmol, 210 μL | BrBr | Br2
reactant | 2-butyl-benzofuran-3-carboxylic acid (6-hydroxy-naphthalen-2-ylmethyl)-amide | 4.02 mmol, 1.5 g | OC=1C=C2C=CC(=CC2=CC1)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC | C24H23NO3
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
solvent | HOAc | 300 mL | CC(=O)O | C2H4O2
product | 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-amide | 1.41 g, 81% | BrC1=C2C=CC(=CC2=CC=C1O)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC | C24H22BrNO3
